US07345178B2
In a typical run, 2.1 g of ethyl 2-aminothiazole-4-carboxylate (Combi-Blocks, 0.0123 mol) was mixed with 25 mL of methyl ethyl ketone along with 2-bromo-2′-nitroacetophenone (3.0 g, 0.0123 mol). The reaction mixture was stirred under reflux for 18 hours. It was then cooled to room temperature and filtered to remove some of the solids. The filtrate was concentrated to afford 3.10 g of 6-(2-nitro-phenyl)-imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester (MS, M++H=318).

reactant | ethyl 2-aminothiazole-4-carboxylate | 0.0123 mol, 2.1 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | 2-bromo-2′-nitroacetophenone | 0.0123 mol, 3.0 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | methyl ethyl ketone | 25 mL | C(C)C(=O)C | C4H8O
product | 6-(2-nitro-phenyl)-imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester | 3.10 g | C(C)OC(=O)C=1N2C(SC1)=NC(=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C14H11N3O4S
